US08084614B2
To a solution of MeOH (60 mL) containing 2-amino-6-fluoro-benzaldehyde (1.19 g, 8.6 mmol) and methyl cyanoacetate (0.91 mL, 10.3 mmol) was added sodium methoxide (2.93 mL, 12.8 mmol, 25% in MeOH). The mixture was stirred at rt for 16 hrs. The resulting yellow precipitates were filtered, washed with MeOH and then stirred in 1N HCl (75 mL) for 2 hrs at rt. The solid was filtered, washed with water and dried in vacuo to yield 5-fluoro-2-oxo-1,2-dihydro-quinoline-3-carbonitrile (1.2 g) as a white solid. MS [M+H]+: 189.1; tR=2.00 min. (method 1)

reactant | 2-amino-6-fluoro-benzaldehyde | 8.6 mmol, 1.19 g | NC1=C(C=O)C(=CC=C1)F | C7H6FNO
reactant | methyl cyanoacetate | 10.3 mmol, 0.91 mL | C(#N)CC(=O)OC | C4H5NO2
reactant | sodium methoxide | 12.8 mmol, 2.93 mL | C[O-].[Na+]
solvent | MeOH | 60 mL | CO | CH4O
product | 5-fluoro-2-oxo-1,2-dihydro-quinoline-3-carbonitrile | 1.2 g | FC1=C2C=C(C(NC2=CC=C1)=O)C#N | C10H5FN2O
